US07495110B2
Stage 2: 1-{3-[benzyl(methyl)amino]propyl}-2-[(3,5-dimethoxy phenyl)amino]-N,N-diisobutyl-1H-benzimidazole-5-carboxamide hydrochloride
3,4 dimethoxyphenylisothiocyanate (35 mg, 1.2 eq) and N-methylcyclohexylcarbodiimide-N-methyl-polystyrene resin (acquired from Novabiochem; charge 1.69 mmol/g, 355 mg, 4 eq) are added successively to a solution of 3-amino-4-({3-[benzyl(methyl)amino]propyl}amino)-N,N-diisobutylbenzamide (65 mg, 1 eq) in tetrahydrofuran (2 ml). The mixture is heated under reflux for 18 hours then cooled down to ambient temperature and aminomethyl polystyrene resin (acquired from Novabiochem, 2 eq) is added. After stirring for 4 hours at ambient temperature, the mixture is filtered on frit and the filtrate is concentrated under reduced pressure at 40° C. The residue obtained is dissolved in ethyl ether and a 1N solution of HCl in ethyl ether is added dropwise in order to produce the expected compound in the form of the hydrochloride salt (81 mg, 92% yield).

reactant | 3,4 dimethoxyphenylisothiocyanate | 35 mg, 1.2 eq | COC=1C=C(C=CC1OC)N=C=S | C9H9NO2S
reactant | 3-amino-4-({3-[benzyl(methyl)amino]propyl}amino)-N,N-diisobutylbenzamide | 65 mg, 1 eq | NC=1C=C(C(=O)N(CC(C)C)CC(C)C)C=CC1NCCCN(C)CC1=CC=CC=C1 | C26H40N4O
reactant | aminomethyl polystyrene resin | 2 eq | N | H3N
reactant | HCl | Cl | ClH
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | ethyl ether | C(C)OCC | C4H10O
product | 1-{3-[benzyl(methyl)amino]propyl}-2-[(3,5-dimethoxy phenyl)amino]-N,N-diisobutyl-1H-benzimidazole-5-carboxamide hydrochloride | Cl.C(C1=CC=CC=C1)N(CCCN1C(=NC2=C1C=CC(=C2)C(=O)N(CC(C)C)CC(C)C)NC2=CC(=CC(=C2)OC)OC)C | InChI=1S/C35H47N5O3.ClH/c1-25(2)22-39(23-26(3)4)34(41)28-14-15-33-32(18-28)37-35(36-29-19-30(42-6)21-31(20-29)43-7)40(33)17-11-16-38(5)24-27-12-9-8-10-13-27;/h8-10,12-15,18-21,25-26H,11,16-17,22-24H2,1-7H3,(H,36,37);1H
